US06528525B1
(d) Ethyl 2-butyl-3-[4-(2-hydroxyethoxy)phenyl]-2-methylpropionate
In a similar manner to that described in Reference example 3(f), a reaction was carried out using ethyl 2-butyl-2-methyl-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl]propionate (4.18 g), which is the product of Reference example 10(c), and p-toluenesulfonic acid monohydrate (2.61 g) and the reaction mixture was treated to afford the desired compound (2.73 g) as a syrup.

reactant | ethyl 2-butyl-2-methyl-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl]propionate | 4.18 g | C(CCC)C(C(=O)OCC)(CC1=CC=C(C=C1)OCCOC1OCCCC1)C | C23H36O5
reactant | p-toluenesulfonic acid monohydrate | 2.61 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | Ethyl 2-butyl-3-[4-(2-hydroxyethoxy)phenyl]-2-methylpropionate | 2.73 g | C(CCC)C(C(=O)OCC)(CC1=CC=C(C=C1)OCCO)C | C18H28O4
